US08067448B2
N′-((2R,3S)-3-(tert-Butyldimethylsilyloxy)-2-(4-cyano-3-(trifluoromethyl)phenylamino)but-anoyl)-4-cyanobenzohydrazide
To a pre-cooled (0° C.) solution of 4-cyano-N′-((2R,3S)-2-(4-cyano-3-(trifluoromethyl)phenylamino)-3-hydroxybutanoyl)benzohydrazide (1.49 g, 3.45 mmol) in DMF (100 mL) was added imidazole (1.88 g, 27.63 mmol) then TBSCl (2.08 g, 13.82 mmol). The reaction was warmed slowly to room temperature, stirred for 18 h, cooled to 0° C. and quenched with H2O (300 mL). The solution was extracted with EtOAc (250 mL). The organic extract was washed with H2O (2×100 mL) and 5% aq. citric acid (3×80 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide a yellow oil, which was purified by flash chromatography over silica gel (20-30% EtOAc in hexanes) to provide the title compound as a colourless solid (1.05 g, 56%): 1H NMR (400 MHz, acetone-d6, δ in ppm) 8.06 (dm, J=8.4 Hz, 2H), 7.92 (dm, J=8.4 Hz, 2H), 7.72 (d, J=8.6 Hz, 1H), 7.31 (d, J=2.4 Hz, 1H), 7.11 (dd, J=2.3, 8.6 Hz, 1H), 6.48 (d, J=8.6 Hz, 1H), 4.43 (dq, J=4.5, 6.1 Hz, 1H), 4.35 (dd, J=4.5, 8.4 Hz, 1H), 1.37 (d, J=6.3 Hz, 3H), 0.87 (s, 9H), 0.12 (s, 3H), −0.04 (s, 3H).

reactant | 4-cyano-N′-((2R,3S)-2-(4-cyano-3-(trifluoromethyl)phenylamino)-3-hydroxybutanoyl)benzohydrazide | 3.45 mmol, 1.49 g | C(#N)C1=CC=C(C(=O)NNC([C@@H]([C@H](C)O)NC2=CC(=C(C=C2)C#N)C(F)(F)F)=O)C=C1 | C20H16F3N5O3
reactant | imidazole | 27.63 mmol, 1.88 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 13.82 mmol, 2.08 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N′-((2R,3S)-3-(tert-Butyldimethylsilyloxy)-2-(4-cyano-3-(trifluoromethyl)phenylamino)but-anoyl)-4-cyanobenzohydrazide | 1.05 g, 56% | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)C | C26H30F3N5O3Si
